* source HB_DRIVER
Q_Q1         VCC N01032 N02340 BD241
C_C1         N01360 N01387  1n  
X_U12         N05006 N01330 Sw_tOpen PARAMS: tOpen=4ms ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R31         N05528 N04901  10k  
C_C2         N01330 N01273  1n  
Q_Q2         VCC N01169 N02261 BD241
X_U7A         N01330 N01387 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R33         N063051 N02261  60  
V_V1         VCC 0 24Vdc
V_V4         N04732 0  
+PULSE 5 0 0 0.1ns 0.1ns 0.5ms 1ms
R_R21         N05348 VCC  1k  
X_D1         0 N02340 D1N5814 
Q_Q51         0 N05348 N05604 BD242
X_U1A         0 0 N04732 N05006 N14693 N05006 $G_CD4000_VDD $G_CD4000_VSS
+  CD4013A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
L_L1         N02340 N063051  92mH  
X_D2         0 N02261 D1N5814 
X_Q12         N05348 N05380 0 BC337/SIE
X_D3         0 N05604 D1N5814 
Q_Q5         0 N01032 N02340 BD242
L_L2         N05604 N062651  92mH  
X_U2B         0 0 N04858 N04901 N05488 N04901 $G_CD4000_VDD $G_CD4000_VSS
+  CD4013A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Q13         N01169 N01360 0 BC337/SIE
X_D4         N05604 VCC D1N5814 
Q_Q6         0 N01169 N02261 BD242
X_U3A         N04732 N04858 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
Q_Q11         VCC N05348 N05604 BD241
R_R41         N05488 N05380  10k  
X_Q14         N05320 N05528 0 BC337/SIE
X_D5         0 N05328 D1N5814 
R_R1         N01169 VCC  1k  
Q_Q21         VCC N05320 N05328 BD241
X_D6         N05328 VCC D1N5814 
X_Q15         N01032 N01273 0 BC337/SIE
Q_Q61         0 N05320 N05328 BD242
R_R2         N01032 VCC  1k  
X_D7         N02340 VCC D1N5814 
R_R3         N01360 N01387  10k  
R_R11         N05320 VCC  1k  
X_U10         N14693 N01330 Sw_tClose PARAMS: tClose=4ms ttran=1u Rclosed=0.01
+  Ropen=1Meg
C_C11         N05528 N04901  1n  
X_D8         N02261 VCC D1N5814 
R_R4         N01330 N01273  10k  
C_C21         N05488 N05380  1n  
R_R32         N062651 N05328  60  
