* source TRGEN
R_R1         N00673 N01131  10k  
R_R2         N00673 N00637  8.2k  
R_R         N01131 N00756  1220  
C_C1         N00756 N00637  10n  
X_U3A         GND N00756 VCC+ VCC- N00637 TL082
V_V1         GND VCC- -15
X_U4A         N00673 GND VCC+ VCC- N01131 TL082
V_V3         VCC+ GND 15
